US08071773B2
l) 3-Ethoxycarbonylmethyl-2-oxo-piperidine-3-carboxylic acid ethyl ester
To a stirred solution of 5 mmol of 2-oxo-piperidine-3-carboxylic acid ethyl ester [3731-16-6] in 30 ml dry of tetrahydrofuran is added dropwise 5.25 mmol of an n-butyl lithium solution (1.6M in hexane) at −78° C. After stirring for 15 minutes at −78° C., trimethylsilyl chloride (0.67 mL, 5.25 mmol) is added dropwise and stirring is continued for 30 minutes while the solution is allowed to warm to 0° C. The reaction mixture is then cooled to −78° C. and transferred (via cannula) to a solution of 5 mmol of freshly prepared lithium diisopropyl-amide in 20 ml of dry tetrahydrofuran at −78° C. After stirring for 30 minutes at −78° C., 5.25 mmol of 2-bromoacetic acid ethyl ester [105-36-2] are added drop wise and stirring is continued for 1 hour while the solution is allowed to warm to 0° C. The reaction is quenched by addition of aqueous saturated ammonium chloride solution and extracted with diethyl ether (3×). The combined organic phases are washed with brine, dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60 F) on the basis of the Rf value.

reactant | 2-oxo-piperidine-3-carboxylic acid ethyl ester | 5 mmol | C(C)OC(=O)C1C(NCCC1)=O | C8H13NO3
reactant | n-butyl lithium | 5.25 mmol, 1.6M | C(CCC)[Li]
reactant | trimethylsilyl chloride | 5.25 mmol, 0.67 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | lithium diisopropyl-amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-bromoacetic acid ethyl ester | 5.25 mmol | C(C)OC(CBr)=O | C4H7BrO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Ethoxycarbonylmethyl-2-oxo-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(C(NCCC1)=O)CC(=O)OCC | C12H19NO5
